US06294558B1
4-[2-Ethyl-4-[1-[3-Fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl]-1,3-thiazole (step 6)
To a stirred solution of 2-ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (183 mg, 0.33 mmol) in dioxane (5 ml) was added 4-(tributylstannyl)thiazole (135 mg, 0.36 mmol), tetrakis(triphenylphosphine)palladium (38 mg, 0.033 mmol), lithium chloride (35 mg, 0.82 mmol), and the mixture was heated at reflux temperature for 16 hours. The reaction mixture was cooled down to room temperature, and diluted with ethyl acetate. The whole was washed with saturated potassium fluoride aqueous solution, and the precipitate was removed by filteration through celite. The resulting solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:2) to give title compound (25 mg, 15% yield). mp: not detected.

reactant | 2-ethyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | 0.33 mmol, 183 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)CC)(F)F | C20H15F7N2O5S2
reactant | 4-(tributylstannyl)thiazole | 0.36 mmol, 135 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | lithium chloride | 0.82 mmol, 35 mg | [Cl-].[Li+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-Ethyl-4-[1-[3-Fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl]-1,3-thiazole | 25 mg, 15% yield | C(C)C1=C(C=CC(=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)C=1N=CSC1 | C22H17F4N3O2S2
